US04052407
To the solution of 367 mg of 2-methyl-4-(6-carbomethoxy-hexyl)-5-(3-hydroxy-1-trans-octenyl)-thiazole (Ic, R1 = CH3) in 4 ml of anhydrous pyridine, 1 ml of acetic anhydride was added. The reaction mixture was allowed to stand for 24 hours at room temperature, diluted with 50 ml of water and extracted with 3 × 15 ml of ethyl acetate. The ethyl acetate extract was washed with water, dried over sodium sulphate and evaporated in vacuo. The obtained 403 mg of evaporation residue was purified by preparative thin layer chromatography, using a silica gel layer as adsorbent and a mixture of 40 % ethyl acetate and 60 % n-heptane as running solvent. Thus, 290 mg of 2-methyl-4-(6-carbomethoxyhexyl)-5-(3-acetoxy-1-trans-octenyl)-thiazole (Ie, R1 = CH3) of chromatographic purity were obtained.

reactant | 2-methyl-4-(6-carbomethoxy-hexyl)-5-(3-hydroxy-1-trans-octenyl)-thiazole | 367 mg | CC=1SC(=C(N1)CCCCCCC(=O)OC)\C=C\C(CCCCC)O | C20H33NO3S
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
product | 2-methyl-4-(6-carbomethoxyhexyl)-5-(3-acetoxy-1-trans-octenyl)-thiazole | 290 mg | CC=1SC(=C(N1)CCCCCCC(=O)OC)\C=C\C(CCCCC)OC(C)=O | C22H35NO4S
